* source MULTIPLIER
.EXTERNAL INPUT Flip
.EXTERNAL OUTPUT Out3
.EXTERNAL OUTPUT Out2
.EXTERNAL OUTPUT Out1
.EXTERNAL OUTPUT Out0
.EXTERNAL INPUT In3
.EXTERNAL INPUT In2
.EXTERNAL INPUT In1
.EXTERNAL INPUT In0
X_HALFADDER1_U4         N00491 N00256 GND HALFADDER1_N00228 VDD NAND21_H 
X_HALFADDER1_U3         N00491 N00256 GND OUT2 VDD XOR21_H 
X_HALFADDER1_U2         HALFADDER1_N00228 GND N01437 VDD INV1_H 
X_HALFADDER2_U4         N00501 N00252 GND HALFADDER2_N00228 VDD NAND21_H 
X_HALFADDER2_U3         N00501 N00252 GND OUT1 VDD XOR21_H 
X_HALFADDER2_U2         HALFADDER2_N00228 GND N00256 VDD INV1_H 
X_HALFADDER3_U4         N00505 FLIP GND HALFADDER3_N00228 VDD NAND21_H 
X_HALFADDER3_U3         N00505 FLIP GND OUT0 VDD XOR21_H 
X_HALFADDER3_U2         HALFADDER3_N00228 GND N00252 VDD INV1_H 
X_U1         IN3 N00923 GND N01449 FLIP VDD MUX21_H 
X_U2         IN2 N00927 GND N00491 FLIP VDD MUX21_H 
X_U3         IN1 N00931 GND N00501 FLIP VDD MUX21_H 
X_U4         IN0 N00935 GND N00505 FLIP VDD MUX21_H 
X_U5         IN3 GND N00923 VDD INV1_H 
X_U6         IN2 GND N00927 VDD INV1_H 
X_U7         IN1 GND N00931 VDD INV1_H 
X_U8         IN0 GND N00935 VDD INV1_H 
X_U9         N01437 N01449 GND OUT3 VDD XOR21_H 
